US03963725
1-(1-methyl-1H-tetrazol-5-yl)thiomethyl-6,7-dihydroxy-3,4-dihydroisoquinoline hydrochloride (0.2 g) was dissolved in methanol (5 ml) under warming. To the solution was added sodium borohydride (50 mg) and the mixture was stirred for 1.5 hours at room temperature. 10% Hydrochloric acid was added to the reaction mixture and the solution was concentrated. Dried methanol was added to the residue and the insoluble material was filtered off, after which the filtrate was evaporated. The residue was crystallized by treating with acetone to give 1-(1-methyl-1H-tetrazol-5-yl)thiomethyl-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (0.16 g), mp 215° to 216°C (dec.).

reactant | 1-(1-methyl-1H-tetrazol-5-yl)thiomethyl-6,7-dihydroxy-3,4-dihydroisoquinoline hydrochloride | 0.2 g | Cl.CN1N=NN=C1SCC1=NCCC2=CC(=C(C=C12)O)O
reactant | sodium borohydride | 50 mg | [BH4-].[Na+]
reactant | Hydrochloric acid | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | 1-(1-methyl-1H-tetrazol-5-yl)thiomethyl-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 0.16 g | Cl.CN1N=NN=C1SCC1NCCC2=CC(=C(C=C12)O)O | InChI=1S/C12H15N5O2S.ClH/c1-17-12(14-15-16-17)20-6-9-8-5-11(19)10(18)4-7(8)2-3-13-9;/h4-5,9,13,18-19H,2-3,6H2,1H3;1H
